US07507726B2
4-(3-Buten-1-yl)-6-chloro-2-(methylthio)pyrimidine
To a mixture of 4,6-dichloro-2-(methylthio)pyrimidine (5.20 g, 26.66 mmol) and tris(acetylacetonate)iron (III) (0.47 g, 1.33 mmol) in THF (130 mL) and DMP (13 mL) at 0° C. was added slowly 3-butenylmagnesium bromide (0.5M in THF, 56 mL, 28.0 mmol). The reaction mixture was stirred overnight. After the reaction was completed, THF was removed by evaporation in vacuo. The residue was dissolved in dichloromethane (100 mL), and washed with water (50 mL×2), dried over MgSO4, filtered and evaporated in vacuo to provide the title compound. MH+215.

reactant | 4,6-dichloro-2-(methylthio)pyrimidine | 26.66 mmol, 5.20 g | ClC1=NC(=NC(=C1)Cl)SC | C5H4Cl2N2S
reactant | 3-butenylmagnesium bromide | 28.0 mmol, 0.5M, 56 mL | C(CC=C)[Mg]Br
solvent | THF | 130 mL | C1CCOC1 | C4H8O
product | 4-(3-Buten-1-yl)-6-chloro-2-(methylthio)pyrimidine | C(CC=C)C1=NC(=NC(=C1)Cl)SC | C9H11ClN2S
